US05707994
(1) 6-Methoxy-1-oxo-1,2,3,4-tetrahydroisoquinoline
To a solution of 5-methoxy-1-indanone (1.0 g) in TFA (20 ml) is added sodium azide (4.0 g), and the mixture is refluxed for 1.5 hour. After cooling, the reaction mixture is poured into water (100 ml), and the pH value of the mixture is adjusted to pH 7 with sodium hydrogen carbonate. The mixture is extracted with ethyl acetate, and washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated brine, and dried over magnesium sulfate. The desiccant is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (silica gel; 100 g, chloroform/methanol=20:1). The fractions containing the title compound are concentrated under reduced pressure to give the title compound (470 mg) as a pale brown powder.

reactant | 5-methoxy-1-indanone | 1.0 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | sodium azide | 4.0 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-Methoxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | 470 mg | COC=1C=C2CCNC(C2=CC1)=O | C10H11NO2
